US09388147B2
Prepared using General Procedure 12. To a stirred solution of (R)-2-((4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)amino)ethyl acetate (20 mg, 0.04 mmol) in DCM (1 mL) was added methanesulfonyl chloride (10.2 mg, 0.08 mmol) followed by triethylamine (9.08 mg, 0.08 mmol)) at 0° C. The reaction mixture was stirred at room temperature for 16 h. The reaction was quenched with water (1 mL), extracted with DCM (2×1 mL), and the combined extracts were dried over MgSO4. The organic layers were concentrated to give 23 mg (50%) of (R)-2-(N-(4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)methylsulfonamido)ethyl acetate which was used in the next step without purification. LCMS-ESI (m/z) calculated for C26H28N4O6S: 524.2. found 547.1 [M+Na]+, tR=3.82 min.

reactant | (R)-2-((4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)amino)ethyl acetate | 0.04 mmol, 20 mg | C(C)(=O)OCCN[C@@H]1CCC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C)C)C#N | C25H26N4O4
reactant | methanesulfonyl chloride | 0.08 mmol, 10.2 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.08 mmol, 9.08 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(N-(4-(5-(3-cyano-4-isopropoxyphenyl)-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1H-inden-1-yl)methylsulfonamido)ethyl acetate | 23 mg, 50% | C(C)(=O)OCCN(S(=O)(=O)C)[C@@H]1CCC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)OC(C)C)C#N | C26H28N4O6S
